US08232294B2
Step 2) (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-aminoacetate hydrochloride
The title compound was prepared according to the procedure described in Example 1 Step 3 by using (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl2-(tert-butoxycarbonyl amino)acetate (100 mg, 0.146 mmol) and a saturated HCl solution in EtOAc (3 mL). The title compound was crystallized in MeOH/EtOAc (20 mL, v/v=1:5) to afford the title compound as a white solid (84.2 mg, 76%).

reactant | (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl2-(tert-butoxycarbonyl amino)acetate | 0.146 mmol, 100 mg | COC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C[C@@H](C)OC(CNC(=O)OC(C)(C)C)=O)C1=CC=CC=C1)=O | C36H38N6O8
reactant | HCl | Cl | ClH
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | (R)-1-(4-(5-(7-methoxyquinolin-4-yloxy)pyridin-2-ylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-aminoacetate hydrochloride | 84.2 mg, 76% | Cl.NCC(=O)O[C@@H](CN1N(C(C(=C1C)C(NC1=NC=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)=O)=O)C1=CC=CC=C1)C | InChI=1S/C31H30N6O6.ClH/c1-19(42-28(38)16-32)18-36-20(2)29(31(40)37(36)21-7-5-4-6-8-21)30(39)35-27-12-10-23(17-34-27)43-26-13-14-33-25-15-22(41-3)9-11-24(25)26;/h4-15,17,19H,16,18,32H2,1-3H3,(H,34,35,39);1H/t19-;/m1./s1
